US08372865B2
(S)-4-(4-Fluoro-phenyl)-6-oxo-1,4,5,6-tetrahydro-pyridine-3-carboxylic acid {1-[2-(tert-butyl-dimethyl-silanyloxy)-ethyl]-5-methyl-1H-indazol-6-yl}-amide (46 mg, 0.09 mmol) was dissolved in 3 ml of a 3:1:1 mixture of acetic acid, water and THF. The mixture was allowed to stir overnight at room temperature. The solution was concentrated in vacuo, and the residue was purified by flash chromatography (95:5 dichloromethane/methanol) to give 24 mg (70.6%) of (S)-4-(4-Fluoro-phenyl)-6-oxo-1,4,5,6-tetrahydro-pyridine-3-carboxylic acid [1-(2-hydroxy-ethyl)-5-methyl-1H-indazol-6-yl]-amide white crystalline solid; MS (ES+) m/z 409 (M+H).

reactant | (S)-4-(4-Fluoro-phenyl)-6-oxo-1,4,5,6-tetrahydro-pyridine-3-carboxylic acid {1-[2-(tert-butyl-dimethyl-silanyloxy)-ethyl]-5-methyl-1H-indazol-6-yl}-amide | 0.09 mmol, 46 mg | C(C)(C)(C)[Si](OCCN1N=CC2=CC(=C(C=C12)NC(=O)C1=CNC(C[C@H]1C1=CC=C(C=C1)F)=O)C)(C)C | C28H35FN4O3Si
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
solvent | THF | C1CCOC1 | C4H8O
product | (S)-4-(4-Fluoro-phenyl)-6-oxo-1,4,5,6-tetrahydro-pyridine-3-carboxylic acid [1-(2-hydroxy-ethyl)-5-methyl-1H-indazol-6-yl]-amide | 24 mg, 70.6% | OCCN1N=CC2=CC(=C(C=C12)NC(=O)C1=CNC(C[C@H]1C1=CC=C(C=C1)F)=O)C | C22H21FN4O3
